US07964608B2
4,6-Dichloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.84 mmol) was treated with butylamine following general procedure B to afford 4-butylamino-6-chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (230 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (155 mg) following general procedure E. The above ethylamide (155 mg, 0.45 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 1-butyl-9-chloro-3-ethyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (87 mg). LCMS: m/z 362 [M+1]+.

reactant | 4,6-Dichloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.84 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1Cl)Cl)OC | C13H11Cl2NO3
reactant | butylamine | C(CCC)N | C4H11N
product | 4-butylamino-6-chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 230 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1NCCCC)Cl)OC | C17H21ClN2O3
